US08119627B2
A mixture of 4-chlorophenol (2.00 g, 15.56 mmol), 2-fluorobenzonitrile (1.88 g, 15.56 mmol) and potassium carbonate (2.15 g, 15.56 mmol) in DMF (10 mL) was stirred under reflux for 4 h. After removal of DMF, the residue was dissolved in DCM and washed with NaOH (5%, 3×20 mL) and brine. The organic layer was dried (MgSO4), filtered and evaporated to give 2-(4-chlorophenoxy)benzonitrile (3.2 g, 90%) as a white solid, mp 84-86° C., which was used in the next step without further purification. Rf: 0.62 (DCM) 1H NMR (270 MHz, CDCl3) δ 6.86 (1H, dd, J=8.4, 0.8 Hz), 7.02 (2H, AA′BB′), 7.15 (1H, td, J=7.7, 1.0 Hz), 7.35 (2H, AA′BB′), 7.48 (1H, m) and 7.65 (1H, dd, J=7.7, 1.5 Hz). LC/MS (APCI) tr=4.66 min, m/z 232.28 (31), 230.27 (M++H, 100).

reactant | 4-chlorophenol | 15.56 mmol, 2.00 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | 2-fluorobenzonitrile | 15.56 mmol, 1.88 g | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | potassium carbonate | 15.56 mmol, 2.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(4-chlorophenoxy)benzonitrile | 3.2 g, 90% | ClC1=CC=C(OC2=C(C#N)C=CC=C2)C=C1 | C13H8ClNO
